US07241798B2
Mixture of four isomers, one being (1S,2S)-1-methylamino-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid [(S)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-amide
A flask containing Intermediate 50, a mixture of four isomers, one being ((1S,2S)-3-{[(S)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-carbamoyl}-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-methyl-carbamic acid tert-butyl ester (0.17 g, 0.30 mmol), and methylene chloride (5 mL) was immersed in a 0° C. bath. Trifluoroacetic acid (0.46 mL, 6.0 mmol) was added, and the reaction stirred for 16 hours at room temperature. The solvent was removed at reduced pressure and the residue partitioned between saturated sodium bicarbonate solution and methylene chloride, the organics were washed with brine, dried over sodium sulfate, filtered, and concentrated to give the title compound as an oil (0.15 g, quantitative yield).

reactant | ((1S,2S)-3-{[(S)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-carbamoyl}-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-methyl-carbamic acid tert-butyl ester | 0.30 mmol, 0.17 g | C(C)(C)(C)OC(N(C)[C@@]12[C@@H](N(CC2C1)C(N(C)[C@@H](C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=CC=CC=C1)=O | C29H33F6N3O3
reactant | Trifluoroacetic acid | 6.0 mmol, 0.46 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (1S,2S)-1-methylamino-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid [(S)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-amide | 0.15 g, quantitative yield | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H](C)N(C(=O)N1[C@H]([C@@]2(CC2C1)NC)C1=CC=CC=C1)C)(F)F | C24H25F6N3O
